* NGSPICE file created from simplediffpair_l0p400_wf0p150_nf1_flat.ext - technology: ihp-sg13g2

.subckt simplediffpair_l0p400_wf0p150_nf1_flat DP DN GP GN S B
X0 DN GN S sub sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.4u
X1 S S S sub sg13_lv_nmos ad=0.1005p pd=1.34u as=7.4716p ps=53.64u w=0.15u l=0.4u
X2 S S S sub sg13_lv_nmos ad=0.1005p pd=1.34u as=0 ps=0 w=0.15u l=0.4u
X3 DP GP S sub sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.4u
C0 a_n78_n755# S 0.00476f
C1 DP S 0.03008f
C2 a_n78_n755# B 0.01359f
C3 DN S 0.03033f
C4 GN DP 0
C5 GN DN 0.00668f
C6 GP S 0.10699f
C7 GP GN 0.00483f
C8 DP DN 0.00722f
C9 B S 0.00694f
C10 GN S 0.10378f
C11 GP DP 0.00668f
C12 B sub 0.03332f
C13 DN sub 0.06084f
C14 GN sub 0.2259f
C15 DP sub 0.06084f
C16 GP sub 0.22489f
C17 S sub 1.96534f
.ends

